US06352839B1
5 g of (S)-N-tert-butoxycarbonyl-4-O-(2-chloroethyl)tyrosine, dissolved in 50 ml of hydrochloric dioxane, are placed in a round-bottomed flask. After having been stirred for 28 h, the mixture is concentrated to dryness under reduced pressure. The resulting residue is taken up in 50 ml of ether and this solution is then stirred and filtered. The resulting solid is washed with 2 times 25 ml of ether and then dried under reduced pressure in order to yield 1.58 g of (S)-4-O-(2-chloroethyl)tyrosine hydrochloride in the form of a white solid which melts at 260° C.

reactant | (S)-N-tert-butoxycarbonyl-4-O-(2-chloroethyl)tyrosine | 5 g | C(C)(C)(C)OC(=O)N[C@@H](CC1=CC=C(C=C1)OCCCl)C(=O)O | C16H22ClNO5
solvent | dioxane | 50 ml | O1CCOCC1 | C4H8O2
product | (S)-4-O-(2-chloroethyl)tyrosine hydrochloride | 1.58 g | Cl.ClCCOC1=CC=C(C[C@H](N)C(=O)O)C=C1 | InChI=1S/C11H14ClNO3.ClH/c12-5-6-16-9-3-1-8(2-4-9)7-10(13)11(14)15;/h1-4,10H,5-7,13H2,(H,14,15);1H/t10-;/m0./s1
